US07625889B2
Step 3: 6-(5-{[(4-Fluoro-benzyl)-(1-methyl-piperidin-4-yl)-amino]-methyl}-furan-3-yl)-3H-benzooxazol-2-one:
1 mL of 95% aqueous TFA was added to a solution of 6-(5-{[(4-fluoro-benzyl)-(1-methyl-piperidin-4-yl)-amino]-methyl}-furan-3-yl)-3-trityl-3H-benzooxazol-2-one (64 mg, 0.09 mmol) in 2 mL of dichloromethane, and the resulting mixture was stirred at room temperature for 1 h. The solvent was removed to afford the crude product. Purification was achieved via flash silica gel chromatography (elution with DCM:MeOH:AcOH:water). The pooled fractions were combined and the solvent was removed in vacuo with co-evaporation of residual AcOH using toluene to give 16 mg of product. LC/MS (long run): Retention time, 3.83 min; (M+H)=436.

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 6-(5-{[(4-fluoro-benzyl)-(1-methyl-piperidin-4-yl)-amino]-methyl}-furan-3-yl)-3-trityl-3H-benzooxazol-2-one | 0.09 mmol, 64 mg | FC1=CC=C(CN(C2CCN(CC2)C)CC2=CC(=CO2)C2=CC3=C(N(C(O3)=O)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=C2)C=C1 | C44H40FN3O3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 6-(5-{[(4-Fluoro-benzyl)-(1-methyl-piperidin-4-yl)-amino]-methyl}-furan-3-yl)-3H-benzooxazol-2-one | 16 mg | FC1=CC=C(CN(C2CCN(CC2)C)CC2=CC(=CO2)C2=CC3=C(NC(O3)=O)C=C2)C=C1 | C25H26FN3O3
